US06867298B2
1-(3,5-Dimethylphenyl)pyrrole
Using general procedure B, pyrrole (83 μL, 1.2 mmol) was coupled with 5-iodo-m-xylene to give the crude product. Column chromatography (2×15 cm, hexane:ethyl acetate 9:1) provided 0.170 g (99% yield) of the product as a colorless oil. 1H NMR (400 MHz, CDCl3): δ 7.07 (t, J=7.0 Hz, 2H), 7.02 (s, 2H), 6.89 (s, 1H), 6.33 (t, J=7.0 Hz, 2H), 2.37 (s, 6H).

reactant | pyrrole | 1.2 mmol, 83 μL | N1C=CC=C1 | C4H5N
reactant | 5-iodo-m-xylene | IC=1C=C(C=C(C1)C)C | C8H9I
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | 1-(3,5-Dimethylphenyl)pyrrole | 0.170 g, 99% yield | CC=1C=C(C=C(C1)C)N1C=CC=C1 | C12H13N
